US08114865B2
Preparation of 4-(4-methyl-piperazin-1-yl)-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzoic acid tert-butyl ester
To a solution of 4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzoic acid tert-butyl ester (13.3 g, 35.4 mmol) in dry dichloromethane (350 mL), under argon, at 0° C., were added triethylamine (7.5 mL, 53.1 mmol) and trifluoroacetic anhydride (6.5 mL, 46.1 mmol). The mixture was stirred at 0° C. for 20 minutes, then water (350 mL) was added dropwise. The phases were separated and the organic phase washed with brine, dried over sodium sulfate and evaporated to dryness. The crude residue was purified by chromatography on silica gel using dichloromethane/ethanol 95:5 as the eluant, affording 12.1 g of the title compound as a pale yellow solid (73% yield).

reactant | 4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzoic acid tert-butyl ester | 35.4 mmol, 13.3 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)N1CCN(CC1)C)NC1CCOCC1)=O | C21H33N3O3
reactant | triethylamine | 53.1 mmol, 7.5 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 46.1 mmol, 6.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 350 mL | O | H2O
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
product | 4-(4-methyl-piperazin-1-yl)-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzoic acid tert-butyl ester | 12.1 g, 73% yield | C(C)(C)(C)OC(C1=C(C=C(C=C1)N1CCN(CC1)C)N(C(C(F)(F)F)=O)C1CCOCC1)=O | C23H32F3N3O4
